US07786130B2
tert-butyl 6-chloropyrazin-2-ylmethylcarbamate
tert-butyl methylcarbamate (prepared following a method substantially similar to the one described in JACS, 2003, 125, 7307-7312)(10.52 g, 80.21 mmol, 1.05 eq.) was dissolved in dry THF (120 mL) and cooled in an ice-bath. NaH (3.51 g, 87.84 mmol, 60%, 1.15 eq.) was added portionwise and the resultant suspension was stirred at RT for 1 hour. The suspension was cooled in an ice-bath and 2,6-dicloropyrazine (11.38 g, 76.39 mmol, 1 eq.) was added portionwise. The reaction mixture was stirred at RT overnight.

reactant | tert-butyl methylcarbamate | CNC(OC(C)(C)C)=O | C6H13NO2
reactant | NaH | 87.84 mmol, 3.51 g, 1.15 eq. | [H-].[Na+]
reactant | 2,6-dicloropyrazine | 76.39 mmol, 11.38 g, 1 eq. | ClC1=NC(=CN=C1)Cl | C4H2Cl2N2
solvent | THF | 120 mL | C1CCOC1 | C4H8O
product | tert-butyl 6-chloropyrazin-2-ylmethylcarbamate | ClC1=CN=CC(=N1)CNC(OC(C)(C)C)=O | C10H14ClN3O2
